US06933311B2
N-3-isoquinolinylacetamide
3-Aminoisoquinoline (495 mg, 3.44 mmol) was stirred in Ac2O (9 mL) at 60° for 16 hours. The mixture was cooled to room temperature and concentrated in vacuo to provide the title compound which was used in the next step without further purification.

reactant | 3-Aminoisoquinoline | 3.44 mmol, 495 mg | NC=1N=CC2=CC=CC=C2C1 | C9H8N2
reactant | Ac2O | 9 mL | CC(=O)OC(=O)C | C4H6O3
product | N-3-isoquinolinylacetamide | C1=NC(=CC2=CC=CC=C12)NC(C)=O | C11H10N2O
